US04089961
To a stirred suspension of 24.0 g. (0.5 mole) of a 50% dispersion of sodium hydride in mineral oil in 150 ml. of dimethylformamide under nitrogen was added dropwise 50.4 g. (0.5 mole) of 4-methylphenol in 100 ml. of dimethylformamide. The mixture was stirred until the evolution of hydrogen ceased. A solution of 67.1 g. (0.5 mole) of phthalide in 100 ml. of dimethylformamide was added and the mixture was refluxed two hours then stirred at 25° C. for sixteen hours. The mixture was poured into ice-water and acidified. The precipitated solid was filtered, dried and recrystallized from ethanol to give 2-carboxybenzyl 4-methylphenyl ether. The ether (22.6 g., 0.1 mole) was refluxed in dry xylene with a mixture of 65 g. of Super-cel and 65 g. of phosphorus pentoxide for seventeen hours. The reaction mixture was filtered. The filter cake was washed with xylene and ether. The combined filtrates were concentrated to give a solid which was recrystallized from ethanol to afford crystals of 2-methyldibenzo[b,e]oxepin-11-one, m.p. 100°-103° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-methylphenol | 0.5 mole | CC1=CC=C(C=C1)O | C7H8O
reactant | hydrogen | [H][H] | H2
reactant | phthalide | 0.5 mole | C1(=O)OCC2=CC=CC=C12 | C8H6O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-carboxybenzyl 4-methylphenyl ether | CC1=CC=C(C=C1)OCC1=C(C=CC=C1)C(=O)O | C15H14O3
